US20010000345A1
To a solution of 250 mg of 5-amino-1,4-dimethylbenzimidazole in 75 mL of ethyl acetate and 10 mL of methanol are added 789 mg of ethyl N,N-bis(benzyloxycarbonyl)pseudothiourea and 665 mg of mercuric acetate and the mixture is stirred at room temperature for 15 hours. The mixture is filtered on Celite and rotary evaporated. The residue is purified by flash column chromatography on silica gel, eluting with 5% methanol/ethyl acetate to provide 590 mg of 5-[N2, N3-bis(benzyloxycarbonyl)guanidino]-1,4-dimethybenzimidazole as a white solid.

reactant | 5-amino-1,4-dimethylbenzimidazole | 250 mg | NC1=C(C2=C(N(C=N2)C)C=C1)C | C9H11N3
reactant | ethyl N,N-bis(benzyloxycarbonyl)pseudothiourea | 789 mg | C(C)N=C(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)S | C19H20N2O4S
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 5-[N2, N3-bis(benzyloxycarbonyl)guanidino]-1,4-dimethybenzimidazole | 590 mg | C(C1=CC=CC=C1)OC(=O)N=C(NC1=C(C2=C(N(C=N2)C)C=C1)C)NC(=O)OCC1=CC=CC=C1 | C26H25N5O4
